US04668437
Preparation of 4-pregnene-3,20-dione-21-ol (deoxycortiocosterone)
A solution containing 7.5 g of potassium hydrogen carbonate in 14 ml of water is added to the suspension containing 2.5 g (5.7 mmoles) of 4-pregnene-3,20-dione-21-ol benzoate in 100 ml of methanol and the mixture is refluxed for 3 hours. Subsequently, the solvent is evaporated and the residue is taken up in 150 ml of water. The product is extracted 3 times with 80 ml of ethyl acetate each, the organic phase is washed with water, dried and evaporated. The residue is recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 1.89 g 99% yield of the aimed product, m.p.: 132°-135° C., [α]D =+175.2° (c=0.5 in ethanol).

reactant | potassium hydrogen carbonate | 7.5 g | C(O)([O-])=O.[K+]
reactant | 4-pregnene-3,20-dione-21-ol benzoate | 5.7 mmoles, 2.5 g | C(C1=CC=CC=C1)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C28H34O4
solvent | water | 14 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 4-pregnene-3,20-dione-21-ol | 1.89 g, 99% yield | C(C([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O)O | C21H30O3
